US09056874B2
N-(3-cyano-2-methyl-6-nitrophenyl)acetamide
To a solution of N-(3-cyano-2-methylphenyl)acetamide (CAS #: 70946-79-1) (1.8 g, 10.33 mmol) in conc. sulfuric acid (20 mL) at −10° C., potassium nitrate (2.08 g, 20.67 mmol) in 5 mL of conc. sulfuric acid was added slowly. After addition, the reaction was stirred at −10° C. for 30 min, then at 0° C. for 3.5 hr. The reaction mixture was poured onto ice, and then the precipitate was collected by filtration. The solid was washed with water and then purified by silica gel flash column chromatography (heptanes/EtOAc=1/0 to 1/1) to give the title compound. MS (ESI−) m/z 218.0 (M−H).

reactant | N-(3-cyano-2-methylphenyl)acetamide | 10.33 mmol, 1.8 g | C(#N)C=1C(=C(C=CC1)NC(C)=O)C | C10H10N2O
reactant | potassium nitrate | 20.67 mmol, 2.08 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | N-(3-cyano-2-methyl-6-nitrophenyl)acetamide | C(#N)C=1C(=C(C(=CC1)[N+](=O)[O-])NC(C)=O)C | C10H9N3O3
